US06833421B1
0.2 ml of piperidine were added carefully to a solution of 4.6 g (30 mmol) of vanillin, 3.4 ml (30.3 mmol) of cyanoacetic acid methyl ester and 0.5 ml of ethanol held at 45° C. The product started to precipitate on cooling to room temperature. The cold reaction mixture was diluted with 8 ml of ethanol, filtered and washed with cold ethanol to give 6.5 g (93%) of 2-cyano-(E)-3-(4-hydroxy-3-methoxyphenyl)acrylic acid methyl ester in form of yellow crystals.

reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
reactant | vanillin | 30 mmol, 4.6 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | cyanoacetic acid methyl ester | 30.3 mmol, 3.4 ml | COC(CC#N)=O | C4H5NO2
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 2-cyano-(E)-3-(4-hydroxy-3-methoxyphenyl)acrylic acid methyl ester | 6.5 g, 93% | COC(\C(=C\C1=CC(=C(C=C1)O)OC)\C#N)=O | C12H11NO4
